2185-02-18 11:45:00 Physician Attending Progress Note
Chief Complaint: altered ms, intubated for airway
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   echo--no regional [**Last Name (LF) 1285**], [**First Name3 (LF) **] stable
   no evidence of hyperviscosity
   PD Q 4 hours
   responding to cokmmands on vent
   weaned off pressors then restarted overnight for hypotension, now off
   with maps in low 60's, systolics 90's
   History obtained from Family / [**Hospital 56**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-2-18**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2185-2-18**] 08:30 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-2-18**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 94 (75 - 96) bpm
   BP: 98/45(56) {77/39(39) - 133/73(86)} mmHg
   RR: 16 (10 - 18) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 67 Inch
   CVP: 15 (11 - 22)mmHg
   Total In:
                                                                    457 mL
                                                                    178 mL
   PO:
   TF:
   IVF:
                                                                    327 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                    523 mL
                                                                    464 mL
   Urine:
                                                                    173 mL
                                                                    164 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -66 mL
                                                                   -286 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 596 (468 - 596) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 13 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 8.2 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) OG
   tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   331 K/uL
   98 mg/dL
   9.4 mg/dL
   26 mEq/L
   3.7 mEq/L
   59 mg/dL
   95 mEq/L
   135 mEq/L
   24.1 %
   7.8 K/uL
        [image002.jpg]
                             [**2185-2-17**]  06:04 AM
                             [**2185-2-17**]  02:23 PM
                             [**2185-2-18**]  04:00 AM
   WBC
   5.1
   7.8
   Hct
   22.2
   22.0
   24.1
   Plt
   242
   331
   Cr
   9.8
   9.4
   TropT
   0.53
   0.52
   Glucose
   158
   98
   Other labs: PT / PTT / INR:16.7/33.0/1.5, CK / CKMB /
   Troponin-T:67/5/0.52, Differential-Neuts:68.4 %, Lymph:21.8 %, Mono:7.0
   %, Eos:2.5 %, Lactic Acid:1.2 mmol/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL,
   PO4:6.5 mg/dL
   Fluid analysis / Other labs: bnp 45,000
   serum viscosity 1.3
   Imaging: echo--global LV HK, ef 20-30%, lv slightly more dilated whil;e
   MR slightly improved
   cxr - b/l effusions but decreased  and atelectaisis l base
    et high
   Microbiology: blood cx from [**2-16**]-- + for GPC pairs and clusters
   urine cx ngtd, sputum--mutliple growth on g/s, cx [**Month/Year (2) 1257**]
   Assessment and Plan
   65 yo M with dm, cad, chf with ef 20-30% and waldenstrom's admitted
   following recent hospitalization with altered mental status,
   respiratory failure, hypotension
   > Respiratory failure:  awake and following commands with excellent
   rsbi and appears ready for extubation. if volume becomes problem[**Name (NI) 1114**]
   after removal of postive pressure would consider noninvasive
 ALTERED MENTAL STATUS (NOT DELIRIUM)
ddx includes infection,
   medications (morphine and lorazepam in setting of ESRD), waldenstrom's
   with possible hyperviscosity verses uremia though had not missed
   PD--now given new + blood cx's cmost concenring for sepsis though
   meds/narcotics may have contributed
        F/u blood cx' final results/speciation and continue current meds
   poending
         Viscosity not cause
        Infection w/u
blood, urine, sputum cx
s sent, PD fluid for
   possible SBP,  foot wounds -without pus/drainage or evidence of
   cellulitis, superficial escar, echo to eval for SBE, if no improvement
   in MS [**First Name (Titles) 1257**] [**Last Name (Titles) 1258**] w/u would consider LP although has been AF and
   with stable WBC ct
        Would reassess the degree of waldenstrom's for possible
   hyperviscosity contributing, in past treated ins setting of significant
   hypercalcemia
check spep / I Gm level, albumin/ Ionized calcium,
   oncology input
         HD today per renal recs
    > Hypotension--now off pressors with BP in baseline range though
   holding antihtn meds
    >SIRS/infection  most likely  cause--possible SBP foot (looks good) no
   new evidence of pna
initially with stable hemodynamics now pressor
   requirements, infection w/u as noted, empiric  Vanco / zosyn cx's
   [**Last Name (Titles) 1257**]--pd fluid-- SBE--echo ordered , foot wounds--though look
   good--CNS infection with possible LP if no improvement
   f/u cx results and continue current coverage [**Last Name (Titles) 1257**] final cx results,
   f/u blood cx's,
 ANEMIA, CHRONIC
continue epo tid, follow h/h
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)---slight
   troponin leak--likely demand in setting of hypotension and chronic
   renal failure, trend enzymes, ecg unimpressive for acute changes,
   asa/statin continued, holding BP meds given hypotension, repeat echo
   yesterday with no new findings resume ace and BB as BP's normalize
 OBSTRUCTIVE SLEEP APNEA (OSA)--will resume home PAP post extubation
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC--reduced EF normally (global
   and s/o nonischemic etiology) echo as above
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)-- PD, renal
   following, has not missed any PD treatments, uremia low on ddx as
   contributing to AMS
      Dose vanco by level, renal/PD dose all meds
   ICU Care
   Nutrition:
   Comments: advance diet once extubated
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2185-2-17**] 01:37 AM
   18 Gauge - [**2185-2-17**] 01:39 AM
   20 Gauge - [**2185-2-17**] 01:39 AM
   Comments: would continue to central line for now,
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40  minutes
   Patient is critically ill

2185-02-19 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2185-2-18**] 11:54 AM
   FROM ED
 BLOOD CULTURED - At [**2185-2-18**] 02:30 PM
   drawn from RIJ TLC
 EKG - At [**2185-2-18**] 03:47 PM
   pt climbed OOB and when placed back after some physical effort on the
   pt's part, he was noted to be in ST (150's), EKG done.
 BLOOD CULTURED - At [**2185-2-18**] 05:00 PM
   drawn from RIJ TLC
   - extubated easily, sating well on 2L
   - blood cx + GPCs 1/4 bottles
   - MS status not quite back to baseline, neuro exam non-focal, Ax0 x 3
   Pt doing well this am, wants foley out.  Denies SOB/CP/Abd pain
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-2-18**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2185-2-19**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-2-19**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 105 (93 - 152) bpm
   BP: 120/63(73) {96/41(56) - 148/119(122)} mmHg
   RR: 15 (15 - 24) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 67 Inch
    CVP: 15 (7 - 20)mmHg
   Total In:
                                                                    306 mL
                                                                     75 mL
   PO:
   TF:
   IVF:
                                                                    306 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  2,064 mL
                                                                    850 mL
   Urine:
                                                                    164 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,758 mL
                                                                   -775 mL
   Respiratory support
   O2 Delivery Device: None
   Vt (Spontaneous): 596 (596 - 596) mL
   SpO2: 100%
   ABG: ///27/
   Ve: 8.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   304 K/uL
   7.8 g/dL
   169 mg/dL
   8.9 mg/dL
   27 mEq/L
   3.7 mEq/L
   47 mg/dL
   96 mEq/L
   135 mEq/L
   23.7 %
   7.4 K/uL
        [image002.jpg]
                             [**2185-2-17**]  06:04 AM
                             [**2185-2-17**]  02:23 PM
                             [**2185-2-18**]  04:00 AM
                             [**2185-2-19**]  04:05 AM
   WBC
   5.1
   7.8
   7.4
   Hct
   22.2
   22.0
   24.1
   23.7
   Plt
   [**Telephone/Fax (3) 1303**]
   Cr
   9.8
   9.4
   8.9
   TropT
   0.53
   0.52
   Glucose
   158
   98
   169
   Other labs: PT / PTT / INR:16.6/32.0/1.5, CK / CKMB /
   Troponin-T:67/5/0.52, Differential-Neuts:68.4 %, Lymph:21.8 %, Mono:7.0
   %, Eos:2.5 %, Lactic Acid:1.2 mmol/L, Ca++:8.2 mg/dL, Mg++:1.6 mg/dL,
   PO4:6.2 mg/dL
   Microbiology: Blood Cx pending x 2 from [**1-/2106**]
   Blood Cx from [**2-16**] + 1/4 bottles GPCs
   Urine Cx NGTD
   Gram stain on peritoneal fluid +PMNs but cell counts <100 PMNs (does
   not meet criteria for SBP)
   Assessment and Plan
   65 yo M with a h/o uncontrolled DMII, ESRD on PD, CAD, CHF w/ an EF of
   20-30% and Waldenstrom's macroglobulinemia who presents after recent
   discharge with altered mental status x 1 day.
   1) Altered mental status: etiology unclear, but likely [**1-22**] sepsis vs.
   polypharm, given blood culture + GPCs and history of ativan+morphine
   prior to presentation.  MS still not quite at basline, d/w
   renal/primary. There may be an underlying component of dementia.
   Hyperviscosity unlikely given serum viscosity of 1.3 (normal 1.4-1.8).
   - will perform serial MS/neuro exams s/p extubation
   - possibility of vascular dementia, would recommend MRI to better
   evaluate
   - continue with pertioneal dialysis
   - continue empiric Vanc, Ceftriaxone
   - f/u cultures- speciation of GPCs in blood
   2) Hypotension: on adm, pt met 1 of SIRS criteria (afebrile, HR 74, WBC
   7.9, RR 21) but required levophed for BP support following intubation.
   Only definitive culture data is
 bottles + for GPCs.  Essentially
   unchanged ECHO and CE flat.  Septic shock was still most likely
   etiology pt hypotension on admission.   Source of infection still
   unclear, but need to consider foot ulcers, peritoneum, SBE as possible
   sources.  BPs stable >48hrs
   - peritoneal fluid cell ct does not meet criteria for SBP, unclear how
   to interpret in setting of PD, will d/w renal
   - given mildly thickened AV & MV valves, will d/w cardiology re
   possibility of SBE
   - for now will cover empirically for SBP with Ceftriaxone
   - blood culture + GPCs, covering with Vanc, waiting on sensitivities
   (may be contaminant)
   - urine NGTD, sputum + GNRs, GPCs & yeast.  Cx resp flora?
   - normal [**Last Name (un) 45**] stim test
   3) ESRD: Continue PD, per renal recs. Goal to run net negative.
   - Continue Nephrocaps
   4) Cardiac:
   (a) Vessels: Pt p/w mild troponin leak, likely due to demand ischemia
   in setting of sepsis and renal disease
   - troponins mildly elevated but stable x 3 & CKs normal, ECHO showed no
   RWMA.
   - continue ASA 325 mg daily
   (b) Pump: Severe global left ventricular hypokinesis with relative
   preservation of apical systolic function suggestive of non-ischemic
   etiology; ECHO [**2-17**] essentially unchanged with LVEF 20-30%.
   - resume AceI and beta-blocker once hypotension resolved
   5) Anemia: likely [**1-22**] ESRD.
   - continue Procrit
   6) DM2: Poorly controlled, HbA1c>13%.
   - RISS, diabetic diet
   7) OSA: pt with h/o OSA on CPAP, but has not been using for months now
   - will monitor overnight & apply supplemental oxygen prn
   - encourage family to bring in home machine
   .
   8) Waldenstroms Macroglobulinemia: serum viscosity essentially stable,
   no acute issues
   ICU Care
   Nutrition: Diabetic diet with aspiration precautions
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2185-2-17**] 01:37 AM
   18 Gauge - [**2185-2-17**] 01:39 AM
   20 Gauge - [**2185-2-17**] 01:39 AM
   Prophylaxis:
   DVT: Heparin sc TID
   Stress ulcer:  PPI
   Code status:  FULL
   Disposition: ICU
   ------ Protected Section ------
   Pt noted to be in new A. Fib in the morning of [**2185-2-19**] with HR in low
   100s.  Currently being worked up, does not appear to have a documented
   h/o paroxysmal A. fibrillation.
   - check TSH
   - restart home regimen of BB, titrate to achieve better HR control
   - monitor lytes and replete Mg>2 & K >4.
   - no need for anti-coagulation in acute setting
   ------ Protected Section Addendum Entered By:[**Name (NI) 1160**] [**Last Name (NamePattern1) 1161**], MD
   on:[**2185-2-19**] 12:59 ------

2185-02-19 10:56:00 Physician Attending Progress Note
Chief Complaint: altered MS, hypotension, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   65 yo M with dm, cad, chf with ef 20-30% and waldenstrom's admitted
   following recent hospitalization with altered mental status,
   respiratory failure, hypotension
from presumed septic shock
   24 Hour Events:
   extubated yesterday now stable on RA, improved mental status,
   noted to be in a fib on ecg overnight with stable rates and bp
 BLOOD CULTURED - At [**2185-2-18**] 02:30 PM
   drawn from RIJ TLC
 EKG - At [**2185-2-18**] 03:47 PM
   pt climbed OOB and when placed back after some physical effort on the
   pt's part, he was noted to be in ST (150's), EKG done.
 BLOOD CULTURED - At [**2185-2-18**] 05:00 PM
   drawn from RIJ TLC
   History obtained from Patient, house staff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2185-2-19**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-2-19**] 12:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-2-19**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.1
C (97
   HR: 98 (94 - 152) bpm
   BP: 103/55(64) {96/41(56) - 148/119(122)} mmHg
   RR: 19 (15 - 24) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
   CVP: 15 (7 - 17)mmHg
   Total In:
                                                                    306 mL
                                                                    278 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                    306 mL
                                                                    158 mL
   Blood products:
   Total out:
                                                                  2,064 mL
                                                                    850 mL
   Urine:
                                                                    164 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,758 mL
                                                                   -572 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Trace, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   304 K/uL
   169 mg/dL
   8.9 mg/dL
   27 mEq/L
   3.7 mEq/L
   47 mg/dL
   96 mEq/L
   135 mEq/L
   23.7 %
   7.4 K/uL
        [image002.jpg]
                             [**2185-2-17**]  06:04 AM
                             [**2185-2-17**]  02:23 PM
                             [**2185-2-18**]  04:00 AM
                             [**2185-2-19**]  04:05 AM
   WBC
   5.1
   7.8
   7.4
   Hct
   22.2
   22.0
   24.1
   23.7
   Plt
   [**Telephone/Fax (3) 1303**]
   Cr
   9.8
   9.4
   8.9
   TropT
   0.53
   0.52
   Glucose
   158
   98
   169
   Other labs: PT / PTT / INR:16.6/32.0/1.5, CK / CKMB /
   Troponin-T:67/5/0.52, Differential-Neuts:68.4 %, Lymph:21.8 %, Mono:7.0
   %, Eos:2.5 %, Lactic Acid:1.2 mmol/L, Ca++:8.2 mg/dL, Mg++:1.6 mg/dL,
   PO4:6.2 mg/dL
   Imaging: smaller lung volumes, effusions--R > L, atelectasis
   Microbiology: g/s from blood 1/4 [**2-16**] + for GPC
   blood pending [**1-/2106**]
   Assessment and Plan
   65 yo M with dm, cad, chf with ef 20-30% and waldenstrom's admitted
   following recent hospitalization with altered mental status,
   respiratory failure, hypotension
from presumed septic shock
   Active issues remain:
        SIRS
source of  infection remains unclear
sbp unlikely given
   cell ct and recent course of treatment,foot wounds appear unimpressive
   and was on antibx at admit,  foot wounds unimpressive, now with GPC in
   blood with final cx pending--? contaminant , verses infection source
                      continue Vanco  and change to ctx for ? SBP,  f/u
   cx's
               TEE to more definitively  r/o SBE, ? PD catheter
   contributing
                       if clear source remains unidentified, would c/s ID
   for input
   > A fib
evaluate records
unclear if has h/o paroxysmal, likely [**1-22**]
   volume shifts, just had repeat echo and tfts
                would rate control and
                follow considering anticoag down line if persist
 ALTERED MENTAL STATUS (NOT DELIRIUM)
appears improved though not
   quite at prior baseline, likely [**1-22**] infection plus medications, may be
   a more chronic problem and would consider pursuing dementia work-up/mri
   > Hypotension
stable off of pressors, would resume home meds beta
   blocker
   > ESRD
PD per renal
      Dose vanco by level
 ANEMIA, CHRONIC
continue epo tid, follow h/h
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)---slight
   troponin leak--likely demand in setting of hypotension and chronic
   renal failure, trend enzymes, ecg unimpressive for acute changes,
   asa/statin cont and restarting bb
 OBSTRUCTIVE SLEEP APNEA (OSA)
encourage use of CPAP
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC--reduced EF at baseline
   (global and s/o nonischemic etiology)
   echo essentially stable as above,
   ICU Care
   Nutrition: progress diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2185-2-17**] 01:37 AM (would d/c prior to floor transfer)
   18 Gauge - [**2185-2-17**] 01:39 AM
   20 Gauge - [**2185-2-17**] 01:39 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :  stable for  floor transfer
   Total time spent: 40 minutes